US07125896B2
b) 5-Bromo-2-(4.4-difluoro-piperidin-1-yl)pyridine
2,5-Dibromopyridine (1.30 g) was heated with 4,4-difluoropiperidine (2 g) in dimethylacetamide (4 ml) at 120° C. for 24 h, then at 150° C. for 8 h. The solution was allowed to cool, then poured into water (30 ml). The aqueous phase was extracted with ether (×3) and the combined extracts washed with water, dried over magnesium sulfate, filtered and evaporated. Purification by column chromatography gave the product as a colourless oil (0.70 g).

reactant | 2,5-Dibromopyridine | 1.30 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4,4-difluoropiperidine | 2 g | FC1(CCNCC1)F | C5H9F2N
reactant | water | 30 ml | O | H2O
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
product | 5-Bromo-2-(4.4-difluoro-piperidin-1-yl)pyridine | 0.70 g | BrC=1C=CC(=NC1)N1CCC(CC1)(F)F | C10H11BrF2N2
